US07494964B2
A mixture of 1.12 g (3.52 mmol) 4,4″-dichlor-1′H-[2,2′;6′,2″]terpyridin-4′-on, 10.0 g (70 mmol) 1-butyl-piperazine and 24 mg (0.18 mmol) Zn(II)-chloride in 20 ml 2-methyl-2butanol is refluxed for 18 hours. Afterwards, the solution is concentrated by a rotary evaporator. The raw product is recrystallized from a methanol/water mixture. The yellowish 4,4″-bis-(4-butyl-piperazin-1-yl)-1′H-[2,2′;6′,2″]terpyridin-4′-on is obtained. 1H-NMR (360 MHz, CDCl3): 8.31 (d, 2H, J=5.9 Hz); 7.18 (sm, 2H); 6.94 (s, 2H); 6.65 (dd, 2H, J=5.9,1.8 Hz); 3.39-3.31 (tm, 8H); 2.55-2.47 (tm, 8H); 2.36-2,28 (tm, 4H); 1.5-1.38 (m, 4H); 1.36-1.22 (m, 4H); 0.87 (t, J=7.2 Hz, 6H).

reactant | 4,4″-dichlor-1′H-[2,2′;6′,2″]terpyridin-4′-on | 3.52 mmol, 1.12 g | ClC1=CC(=NC=C1)C=1NC(=CC(C1)=O)C1=NC=CC(=C1)Cl | C15H9Cl2N3O
reactant | 1-butyl-piperazine | 70 mmol, 10.0 g | C(CCC)N1CCNCC1 | C8H18N2
solvent | 2-methyl-2butanol | 20 ml | CC(C)(CC)O | C5H12O
product | 4,4″-bis-(4-butyl-piperazin-1-yl)-1′H-[2,2′;6′,2″]terpyridin-4′-on | C(CCC)N1CCN(CC1)C1=CC(=NC=C1)C=1NC(=CC(C1)=O)C1=NC=CC(=C1)N1CCN(CC1)CCCC | C31H43N7O
